US07897624B2
Step b: Cyclopropanesulfonic acid [4-(4-bromo-2-fluoro-phenylamino)-1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl]-amide
5-Amino-4-(2-fluoro-4-bromophenylamino)-1-methylpyridin-2(1H)-one was reacted with cyclopropanesulfonyl chloride using the same procedure as described in step f of example 1 above, and purified by HPLC.

reactant | 5-Amino-4-(2-fluoro-4-bromophenylamino)-1-methylpyridin-2(1H)-one | NC=1C(=CC(N(C1)C)=O)NC1=C(C=C(C=C1)Br)F | C12H11BrFN3O
reactant | cyclopropanesulfonyl chloride | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
product | Cyclopropanesulfonic acid [4-(4-bromo-2-fluoro-phenylamino)-1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl]-amide | BrC1=CC(=C(C=C1)NC=1C(=CN(C(C1)=O)C)NS(=O)(=O)C1CC1)F | C15H15BrFN3O3S
